US08202895B2
3-[(tert-Butoxycarbonyl)amino]-3-(2,3-dichlorophenyl)propanoic acid
A quantity of 1.50 g (6.41 mmol) of 3-amino-3-(2,3-dichlorophenyl)propanoic acid was suspended in 45 ml of dioxane and 45 ml of 5% strength aqueous sodium hydrogen carbonate solution and the suspension was admixed at room temperature with 1.40 g (6.41 mmol) of di-tert-butyl dicarbonate. The mixture was stirred at room temperature for 16 h. For work-up, the suspension was admixed with about 50 ml of ethyl acetate, with stirring. The precipitate was filtered off with suction. Following phase separation of the mother liquor, the aqueous phase was adjusted cautiously to a pH of 1 using 1N hydrochloric acid and extracted once with about 50 ml of ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated under reduced pressure. This gave 1.68 g (79% of theory) of the target compound.

reactant | 3-amino-3-(2,3-dichlorophenyl)propanoic acid | 6.41 mmol, 1.50 g | NC(CC(=O)O)C1=C(C(=CC=C1)Cl)Cl | C9H9Cl2NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 6.41 mmol, 1.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | about 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 45 ml | O1CCOCC1 | C4H8O2
product | 3-[(tert-Butoxycarbonyl)amino]-3-(2,3-dichlorophenyl)propanoic acid | C(C)(C)(C)OC(=O)NC(CC(=O)O)C1=C(C(=CC=C1)Cl)Cl | C14H17Cl2NO4
